US07981903B2
A mixture of of 2-fluoro-6-[(2-{[5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide (67 mg, 0.15 mmol) and CDI (30 mg, 0.18 mmol) in THF (4 mL) was stirred for 15 min, then treated with a solution of methylamine (2M in THF, 4 mL, 8 mmol) and was heated for 2 days in a sealed vessel at 80° C. More methylamine (2M in THF, 5 mL) was added and the reaction mixture was heated for 22 h. The resulting mixture was allowed to cool to rt, diluted with EtOAc (50 mL), washed with a saturated Na2CO3 solution (50 mL), water (50 mL) and a saturated NaCl solution (50 mL). The aqueous layers were back extracted with EtOAc (50 mL). The organic layers were combined and concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 6-[(4-{[2-(aminocarbonyl)-3-fluorophenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-2-yl)amino]-N,N-dimethyl-5-(methyloxy)-2,3-dihydro-1H -indole-1-carboxamide as a yellow solid (43 mg, 55%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.83 (s, 6H), 2.94 (t, J=8.06 Hz, 2H), 3.73-3.86 (m, 5H), 6.18-6.28 (m, 1H), 6.84-6.95 (m, 2H), 6.97 (s, 1H), 7.31-7.42 (m, 1H), 7.47 (s, 1H), 7.82 (s, 1H), 8.01 (s, 1H), 8.07 (s, 1H), 8.41 (d, J=8.24 Hz, 1H), 10.47 (s, 1H), 11.21 (s, 1H); ESIMS (M+H)+=505.15.

reactant | 2-fluoro-6-[(2-{[5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 0.15 mmol, 67 mg | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCNC3=C1)OC)=NC=C2 | C22H20FN7O2
reactant | CDI | 0.18 mmol, 30 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methylamine | 8 mmol, 2M, 4 mL | CN | CH5N
reactant | methylamine | 2M, 5 mL | CN | CH5N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 6-[(4-{[2-(aminocarbonyl)-3-fluorophenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-2-yl)amino]-N,N-dimethyl-5-(methyloxy)-2,3-dihydro-1H -indole-1-carboxamide | 43 mg, 55% | NC(=O)C1=C(C=CC=C1F)NC1=C2C(NC(=N1)NC1=C(C=C3CCN(C3=C1)C(=O)N(C)C)OC)=NC=C2 | C25H25FN8O3
